US04626542
A Grignard solution prepared from 13.4 grams (0.1 mole) of 1-methyl-4-chloropiperidine, 2.43 grams (0.1 gram atom) of magnesium and 100 milliliters of tetrahydrofuran is added dropwise with stirring to a cooled solution of 17.0 grams (0.075 mole) of 5-chloro-5H-dibenzo[a,d]cycloheptene in 100 milliliters of tetrahydrofuran. After completion of the addition, stirring is continued for several hours at ambient temperature. The solvent is then vaporized under reduced pressure to obtain a residue which is dissolved in a biphasic mixture of benzene and water. The benzene solution is washed, dried filtered and the solvent vaporized as previously described to obtain the desired 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-methylpiperidine, equational isomer as residue.

reactant | 1-methyl-4-chloropiperidine | 0.1 mole, 13.4 grams | CN1CCC(CC1)Cl | C6H12ClN
reactant | magnesium | 2.43 grams | [Mg] | Mg
reactant | 5-chloro-5H-dibenzo[a,d]cycloheptene | 0.075 mole, 17.0 grams | ClC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C15H11Cl
solvent | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
product | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-methylpiperidine | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCN(CC3)C | C21H23N
